US06649641B2
4-[(4-tert-Butylphenylamino)methyl]benzoic acid methyl ester (5 g, 16.8 mmol) was dissolved in a mixture of THF (10 ml) and aqueous sodium hydroxide (1 N, 16.8 ml). A solution of di-tert-butylpyrocarbonate in THF (20 ml) was added dropwise, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and ethyl acetate (150 ml), water (50 ml) and hydrochloric acid (4 N, 8.4 ml) were added. The aqueous phase was extracted with ethyl acetate (25 ml). The combined organic phases were washed with water (3×30 ml), dried (magnesium sulphate) and concentrated in vacuo to afford 6.9 g of 4-{[tert-butoxycarbonyl-(4-tert-butylphenylamino)]methyl}benzoic acid methyl ester.

reactant | 4-[(4-tert-Butylphenylamino)methyl]benzoic acid methyl ester | 16.8 mmol, 5 g | COC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)(C)C)=O | C19H23NO2
reactant | di-tert-butylpyrocarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1 N, 16.8 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-{[tert-butoxycarbonyl-(4-tert-butylphenylamino)]methyl}benzoic acid methyl ester | 6.9 g | COC(C1=CC=C(C=C1)CN(C1=CC=C(C=C1)C(C)(C)C)C(=O)OC(C)(C)C)=O | C24H31NO4
